US08633173B2
2-Chloro-5-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine was prepared from 8-bromo-2-chloro[1,2,4]triazolo[1,5-a]pyridine (0.5 g, 2.15 mmol) and 2-methoxy-5-trifluoromethylbenzeneboronic acid (0.71 g, 3.23 mmol) in a manner analogous to Example 2c. Product was isolated as a foam (0.7 g, 82%). 1H NMR (400 MHz, CDCl3, δ, ppm): 7.80 (d, J=8.8 Hz, 1H), 7.75-7.70 (m, 2H), 7.68-7.62 (m, 1H), 7.16 (d, J=8.8 Hz, 1H), 7.09 (d, J=6.8 Hz, 1H), 3.87 (s, 3H). MS=328 (MH)+.

reactant | 8-bromo-2-chloro[1,2,4]triazolo[1,5-a]pyridine | 2.15 mmol, 0.5 g | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-methoxy-5-trifluoromethylbenzeneboronic acid | 3.23 mmol, 0.71 g | COC1=C(C=C(C=C1)C(F)(F)F)B(O)O | C8H8BF3O3
product | 2-Chloro-5-(2-methoxy-5-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C=CC=C2C2=C(C=CC(=C2)C(F)(F)F)OC)=N1 | C14H9ClF3N3O
